US04180672
4-t-Butyldimethylsiloxy-2-n-octylthiocyclopent-2-en-1-one (90 mg) was dissolved in 5 ml of a mixture of acetic acid, water and tetrahydrofuran in a ratio of 3:1:1, and reacted at room temperature for 48 hours. The reaction mixture was neutralized with sodium bicarbonate, and extracted with ethyl acetate. The extract was treated by conventional methods, and chromatographed on a thin layer plate with cyclohexane/ethyl acetate (4/6) to afford 48 mg of 4-hydroxy-2-n-octylthiocyclopent-2-en-1-one in a yield of 84% showing a single spot. The resulting product had the following characteristics.

reactant | 4-t-Butyldimethylsiloxy-2-n-octylthiocyclopent-2-en-1-one | 90 mg | O([Si](C)(C)C(C)(C)C)C1C=C(C(C1)=O)SCCCCCCCC | C19H36O2SSi
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-hydroxy-2-n-octylthiocyclopent-2-en-1-one | 48 mg, yield of 84% | OC1C=C(C(C1)=O)SCCCCCCCC | C13H22O2S
